US05925635
N-(3-Cyanophenyl)-N'-(2-hydroxyethyl)-N'-(1-benzylpiperidin-4-yl)urea
To a stirred solution of 4-(2-hydroxyethyl)amino-1-benzylpiperidine (1.82 g), and triethylamine (0.789 g, 7.8 mmol) in DMF (50 mL) was added 3-cyanophenylisocyanate (1.12 g, 7.8 mmol). This mixture was heated at 60° C. for 18 under a N2 atmosphere. The reaction was diluted with water and extracted with ethyl acetate, dried with MgSO4, filtered and concentrated to give the desired product, N-(3-cyanophenyl)-N'-(2-hydroxyethyl)-N'-(1-benzylpiperidin-4-yl)urea (2.04 g, 5.3 mmol). LRMS (M+H)+ m/z 379.

reactant | 4-(2-hydroxyethyl)amino-1-benzylpiperidine | 1.82 g | OCCNC1CCN(CC1)CC1=CC=CC=C1 | C14H22N2O
reactant | triethylamine | 7.8 mmol, 0.789 g | C(C)N(CC)CC | C6H15N
reactant | 3-cyanophenylisocyanate | 7.8 mmol, 1.12 g | C(#N)C=1C=C(C=CC1)N=C=O | C8H4N2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(3-cyanophenyl)-N'-(2-hydroxyethyl)-N'-(1-benzylpiperidin-4-yl)urea | 5.3 mmol, 2.04 g | C(#N)C=1C=C(C=CC1)NC(=O)N(C1CCN(CC1)CC1=CC=CC=C1)CCO | C22H26N4O2
